US07671066B2
Preparation of 3-cyclopentyloxy-4-methoxy-benzoic acid, (Z)-1-(3-cyclopentyloxy-4-methoxy-phenyl)-2-(3,5-dichloro-pyridin-4-yl)vinyl ester (CHF 5408)
The compound was obtained starting from 3,5-dichloro-4-methyl-pyridine and 3-cyclopentyloxy-4-methoxybenzoyl chloride following the procedure of Example 31.

reactant | 3,5-dichloro-4-methyl-pyridine | ClC=1C=NC=C(C1C)Cl | C6H5Cl2N
reactant | 3-cyclopentyloxy-4-methoxybenzoyl chloride | C1(CCCC1)OC=1C=C(C(=O)Cl)C=CC1OC | C13H15ClO3
product | 3-cyclopentyloxy-4-methoxy-benzoic acid, (Z)-1-(3-cyclopentyloxy-4-methoxy-phenyl)-2-(3,5-dichloro-pyridin-4-yl)vinyl ester | C1(CCCC1)OC=1C=C(C(=O)O\C(=C/C2=C(C=NC=C2Cl)Cl)\C2=CC(=C(C=C2)OC)OC2CCCC2)C=CC1OC | C32H33Cl2NO6
